US06841569B2
Imidazole (0.45 g) was added to a solution of 1(5-chloro-2-thienyl)-1,2-ethanediol (1.0 g, 5.6 mmol) and tert-butyldimethylsilyl chloride (0.80 g) in N,N-dimethylformamide (5 ml) at 5°. The reaction mixture was allowed to come to room temperature and stirred 1 hour, extracted with ethyl acetate, washed with 0.5N aqueous hydrochloric acid, saturated sodium bicarbonate and brine. The extracts were dried over sodium sulfate, filtered, concentrated in vacuo. 1-tert-butyldimethylsilyloxy-2-(5-chloro-2-thienyl)ethan-1-ol (1.14 g) was obtained as a colorless oil after a chromatographic purification. 1,1′-Carbonyldiimidazole (0.95 g) was added to a solution of the foregoing alcohol (1.14 g 3.9 mmol) in dichloromethane (20 mL) at 5°. The reaction mixture was allowed to come to room temperature and stirred 1 hour. Ammonium hydroxide (equivalent to 28% ammonia in water, 10 ml) was added at 5°. The reaction mixture was stirred for 1 hour at room temperature, extracted with ethyl acetate, washed with 0.5N aqueous hydrochloric acid, saturated sodium bicarbonate and brine. The extracts were dried over sodium sulfate, filtered, concentrated in vacuo. 1-tert-butyldimethylsilyloxy-2-(5-chloro-2-thienyl)-2-carbamoyloxyethane (0.47 g) was obtained as a colorless oil after a chromatographic purification.

reactant | Imidazole | 0.45 g | N1C=NC=C1 | C3H4N2
reactant | 1(5-chloro-2-thienyl)-1,2-ethanediol | 5.6 mmol, 1.0 g | ClC1=CC=C(S1)C(CO)O | C6H7ClO2S
reactant | tert-butyldimethylsilyl chloride | 0.80 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-tert-butyldimethylsilyloxy-2-(5-chloro-2-thienyl)ethan-1-ol | 1.14 g | [Si](C)(C)(C(C)(C)C)OC(CC=1SC(=CC1)Cl)O | C12H21ClO2SSi
